US06166006
In 1,2-dichloroethane (50 ml) were dissolved p-nitrobenzaldehyde (5 g) and 3-methoxypropylamine (3.1 g), and to the mixture was added, under ice-cooling, triacetoxy sodium boron hydride (9.8 g). Under nitrogen atmosphere, the mixture was stirred at room temperature for 3 hours, and to the mixture were added, under ice-cooling, 37% formalin (3 ml) and triacetoxy sodium boron hydride (9.8 g). Under nitrogen atmosphere, the mixture was stirred at room temperature for 3 hours, and to the mixture was added water. The mixture was concentrated, neutralized with sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with water and subjected to back extraction with iN hydrochloric acid. The aqueous layer was washed with ethyl acetate, neutralized with 1N sodium hydroxide solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated to give N-(3-methoxypropyl)-N-methyl-4-nitrobenzylamine (5.6 g) as yellow oil.

reactant | p-nitrobenzaldehyde | 5 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 3-methoxypropylamine | 3.1 g | COCCCN | C4H11NO
reactant | formalin | 3 ml | C=O | CH2O
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-(3-methoxypropyl)-N-methyl-4-nitrobenzylamine | 5.6 g | COCCCN(C)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H18N2O3
